US04788185
(43-6) 8-Benzyloxyimidazo[1,2-a]pyridine
2-Amino-3-benzyloxypyridine is reacted with bromoacetaldehye in aqueous tetrahydrofuran in the presence of sodium hydrogen carbonate, whereby the above-identified compound is obtained.

reactant | 2-Amino-3-benzyloxypyridine | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | bromoacetaldehye | BrCC=O | C2H3BrO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-Benzyloxyimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=CN2 | C14H12N2O
